US06774241B2
A 100 mL round-bottomed flask equipped with magnetic stirrer and a reflux condenser was charged with 2-butanone (30 mL), 4-hydroxy-1H-indole (1.197 g, 0.009 mol), potassium carbonate (44.71 g, 0.036 mol) and sodium iodide (0.137 g, 0.0009 mol). To this mixture was added 2-chloro-N,N-dimethylethylamine hydrochloride (1.43 g, 0.010 mol). The reaction mixture was brought to reflux and stirred for 24 hours. The solvent was removed in vacuo and the resulting crude residue was dissolved in 60 mL of ethyl acetate and the solution was washed sequentially with water (3×45 mL) and brine (1×45 mL). The aqueous fractions were extracted with ethyl acetate (2×20 mL) and the combined organic fractions were dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (95:4.9:0.1 dichloromethane/methanol/ammonium hydroxide) to afford 2-(1H-indol-4-yloxy)ethyl dimethylamine as a transparent pale blue oil (1.322 g, 72%). MS: (M+H)+=205.4.

reactant | 4-hydroxy-1H-indole | 0.009 mol, 1.197 g | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | potassium carbonate | 0.036 mol, 44.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.0009 mol, 0.137 g | [I-].[Na+]
reactant | 2-chloro-N,N-dimethylethylamine hydrochloride | 0.010 mol, 1.43 g | Cl.ClCCN(C)C
solvent | 2-butanone | 30 mL | CC(CC)=O | C4H8O
product | 2-(1H-indol-4-yloxy)ethyl dimethylamine | 1.322 g, 72% | N1C=CC2=C(C=CC=C12)OCCN(C)C | C12H16N2O
